US09315521B2
To a mixture of 6-methyl-2-sulfanylpyrimidin-4-ol (0.492 g, 3.46 mmol) and 3-(bromomethyl)-2-chloroquinoline (1.27 g, 4.95 mmol) in anhydrous ethanol (30 mL) at room temperature was added triethylamine (1.50 g, 14.85 mmol). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated to dryness and water (50 mL) was added. The mixture was sonicated, and a white solid precipitated out. The product was filtered, washed with water, washed with ether, and then dried in vacuo to provide 2-{[(2-chloroquinolin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol as a white solid (1.03 g, 66% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.24 (s, 3H), 4.57 (s, 2H), 6.00 (bs, 1H), 7.61 (t, 1H), 7.78 (t, 1H), 7.79 (d, J=10.8 Hz, 1H), 8.01 (d, J=10.8 Hz, 1H), 8.67 (s, 1H); M+317.8.

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3.46 mmol, 0.492 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | 3-(bromomethyl)-2-chloroquinoline | 4.95 mmol, 1.27 g | BrCC=1C(=NC2=CC=CC=C2C1)Cl | C10H7BrClN
reactant | triethylamine | 14.85 mmol, 1.50 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-{[(2-chloroquinolin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 1.03 g, 66% yield | ClC1=NC2=CC=CC=C2C=C1CSC1=NC(=CC(=N1)O)C | C15H12ClN3OS
